US07973051B2
v) N-[(5-ethyl-4-phenyl-1,3-thiazol-2-yl)carbamoyl]-5-methylthiophene-3-sulfonamide
5-Methyl-thiophene-3-sulfonic acid amide (0.0789 g, 0.445 mmol) was dissolved in 4 mL of abs. acetonitrile and treated successively with phenyl chloroformate (0.0697 g, 1.00 eq.) and triethylamine (0.154 mL, 2.5 eq.), and the mixture kept at ambient temperature for 1. h. The above prepared 5-ethyl-4-phenyl-thiazol-2-ylamine (0.0910 g, 1.00 eq.), dissolved in a tiny amount of acetonitrile, was then added, and the mixture heated to 55-60° C. over night. Cooling, pouring onto crashed ice/NH4Cl, twofold extraction with ethyl acetate, washing with brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/ethyl acetate=1/1), yielded 0.081 g of the title compound as off-white crystals.

reactant | 5-Methyl-thiophene-3-sulfonic acid amide | 0.445 mmol, 0.0789 g | CC1=CC(=CS1)S(=O)(=O)N | C5H7NO2S2
reactant | phenyl chloroformate | 0.0697 g, 1.00 eq. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 0.154 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 5-ethyl-4-phenyl-thiazol-2-ylamine | 0.0910 g, 1.00 eq. | C(C)C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H12N2S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(5-ethyl-4-phenyl-1,3-thiazol-2-yl)carbamoyl]-5-methylthiophene-3-sulfonamide | 0.081 g | C(C)C1=C(N=C(S1)NC(=O)NS(=O)(=O)C1=CSC(=C1)C)C1=CC=CC=C1 | C17H17N3O3S3
